Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, chills.
 
Major Surgical or Invasive Procedure:
___ line placement (___).
Diagnostic and therapeutic paracentesis (___).
Diagnostic paracentesis (___).

 
History of Present Illness:
___ man with history of HCV cirrhosis c/b esophageal 
varices and ascites and multifocal HCC s/p cyberknife and TACE 
who presents for evaluation after recent variceal bleed 
requiring ICU stay in ___. There he reports undergoing 
emergent banding of the varices with transfusion of 9 RBC's and 
___omplicated by shock and renal dysfunction. 
He was in the hospital for approximately two weeks and 
discharged three days ago. Upon arrival to the ___, he called his 
hepatologist Dr. ___. He reported worsening dry cough over 
the past few days with fever and chills. He denies any further 
hematemesis, BRBPR, or melena. He describes a heartburn 
sensation which they told him was caused by the banding. Upon 
arrival to the ED, he was febrile at 101.6 but was otherwise 
hemodynamically stable on room air. Labs revealed a doubling in 
his Tbili, with hyponatremia and an elevated creatinine. He 
underwent CT of his torso which showed bilateral pleural 
effusions, his known liver lesions and new right renal 
hydronephrosis as well as other findings listed below. His 
ascites was tapped and WBC was 14,500. Peritoneal fluid was sent 
for culture, and he was started on vanc/zosyn. UA was positive 
as well.  
  
On the floor, he reports feeling fatigued with chills. He notes 
cough and shortness of breath. He denies CP or heartburn. His 
urinary habits have been regular without dysuria or change in 
frequency or urgency. He has had daily bowel movements since d/c 
in ___ without melena or hematochezia. He denies abdominal 
pain.  
  
ROS:  
+Per HPI.  
-Denies night sweats, headache, bloody nose, rhinorrhea, 
congestion, sore throat, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
-HCV cirrhosis c/b Esophageal varices and Ascites  
-Multifocal HCC s/p cyberknife, TACE, with recently elevated AFP 
tumor markers
-Non-insulin dependent diabetes mellitus
-Hx Shingles  
-Echo ___: Severe pulmonary hypertension with hypertrophied  

and dilated right ventricle. Peserved biventricular systolic  
function. Mild mitral regurgitation

 
Social History:
___
Family History:
His mother had bladder cancer. 
 
Physical Exam:
Upon admission: 
VS: 98.5 118/45 73 20 96% on RA 82.3kg ___ 143  
I/O: 240+500/200  
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, JVD to mid-neck  
HEART: ___ RR, no MRG, nl S1-S2.  
LUNGS: Decreased bibasilar BS, clear at apices.  
ABDOMEN: +BS, soft, moderate distention, mild TTP over diag para 
site. Firm liver edge felt.  
BACK: No CVA tenderness.  
EXTREMITIES: WWP, 3+ pitting edema to upper thighs, 2+ 
peripheral pulses.  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, no asterixis.  

At discharge:
VS: 96.9 114/51 64 18 98%RA
I/O: 1050/1300
___: ___ 
GENERAL: In NAD, comfortable lying in bed 
HEENT: PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: JVD to angle of the jaw 
HEART: ___ RR, no MRG, nl S1-S2.  
LUNGS: Improved breath sounds from yesterday.  Still with 
crackles at lung bases. 
ABDOMEN: +BS, soft, nontender moderate distention improved from 
prior.
BACK: No CVA tenderness.  
EXTREMITIES:3+ pitting edema to upper thighs, 2+ peripheral 
pulses.  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, no asterixis.
 
Pertinent Results:
Labs upon admission: 
___ 07:00PM BLOOD WBC-4.9 RBC-3.15* Hgb-11.1* Hct-32.2* 
MCV-102*# MCH-35.3* MCHC-34.5 RDW-19.3* Plt Ct-66*
___ 07:00PM BLOOD Neuts-80.8* Lymphs-13.2* Monos-3.3 
Eos-2.1 Baso-0.6
___ 07:00PM BLOOD ___ PTT-36.4* ___
___ 07:00PM BLOOD Glucose-229* UreaN-21* Creat-1.3* Na-126* 
K-7.3* Cl-91* HCO3-30 AnGap-12
___ 07:00PM BLOOD ALT-26 AST-123* AlkPhos-209* TotBili-3.9*
___ 07:00PM BLOOD Lipase-42
___ 07:00PM BLOOD proBNP-1444*
___ 07:00PM BLOOD cTropnT-<0.01
___ 07:00PM BLOOD Albumin-2.5*
___ 05:25AM BLOOD Albumin-3.5 Calcium-9.4 Phos-2.7 Mg-1.7

Recent AFPs:
___ 04:41    PND 
___ 12:00    514.3*1 
___ 10:30    197.4*1 
___ 15:52    849.4*1 
___ 13:13    713.2*1 
___ 07:30    657.3*1 
___ 11:45    414.9*1 
___ 15:16    398.1*1 
___ 16:52    254.1*1 
___ 11:33    107.6*1 
___ 15:00    43.6*1 
___ 12:20    4.41 
___ 12:15    5.91 
___ 11:45    8.5* 
___ 11:10    14.5* 

Peritoneal fluid cellular analysis and chemistry:
ASCITES ANALYSIS    WBC RBC Polys Lymphs Monos Mesothe Macroph 
___ 14:20    25* ___ 28* 62* 0   10* 
___ 00:10    ___ 5500* 25* 55* 0 4* 16*

Micro:
___ PERITONEAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PRELIMINARY 
{GRAM NEGATIVE ROD(S)}; Anaerobic Bottle Gram Stain-FINAL 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ URINE URINE CULTURE-PRELIMINARY {KLEBSIELLA 
PNEUMONIAE} 
___ PERITONEAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY

URINE CULTURE (Final ___: 
KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         WARNING! This isolate is an extended-spectrum 
beta-lactamase
         (___) producer and should be considered resistant to 
all
         penicillins, cephalosporins, and aztreonam. Consider 
Infectious
         Disease consultation for serious infections caused by
         ESBL-producing species. 
         Piperacillin/Tazobactam sensitivity testing performed 
by
         Microscan.  Ertapenem SENSITIVITY REQUESTED BY ___ 
___ ___. 
         SENSITIVE TO Ertapenem. 
         Ertapenem sensitivity testing performed by ___.
                             SENSITIVITIES: MIC expressed in 
MCG/ML
                             KLEBSIELLA PNEUMONIAE
                             |   
AMIKACIN--------------    16 S
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------     1 S
NITROFURANTOIN--------   256 R
PIPERACILLIN/TAZO-----  =>64 R
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

Imaging:
___ CXR: Frontal and lateral views of the chest are 
obtained. There are small-to-moderate bilateral pleural 
effusions with overlying atelectasis.  Anterolateral right 
pleural thickening is again seen. Surgical clips are noted 
projecting over the right lower hemithorax/right upper quadrant. 
 Cardiac and mediastinal silhouettes are stable. IMPRESSION: 
Bilateral pleural effusions with overlying atelectasis. 

___ CT torso: 1. Loculated right pleural effusion with 
peripheral calcifications, similar in appearance to prior study. 
Small left pleural effusion is increased since the 
abdomen/pelvis CT of ___. Increased bibasilar opacities 
may relate to worsening atelectasis, although infection and/or 
aspiration not excluded. 2. Persistent retroesophageal 
lymphadenopathy. Mediastinal and retroperitoneal 
lymphadenopathy, non-specific, but metastatic involvement cannot 
be excluded; findings are similar to that on the prior study. 3. 
Multiple known hepatic lesions, not optimally assessed on this 
single-phase study, but as described above. Hepatic cirrhosis 
and moderate to large amount of ascites. Areas of peritoneal 
enhancement/thickening, as also seen previously, although may 
have increased since the prior study. Findings may be 
reactive/post-inflammatory, although infectious or malignant 
ascites is not excluded. 
4. Apparent mild thickening of the wall of the ascending colon, 
could relate to portal colopathy or reactive from ascites, 
although colitis (infectious, ischemic, or inflammatory) is not 
entirely excluded. No pneumatosis or free air is seen. No bowel 
obstruction. 5. Mild right hydronephrosis of uncertain etiology. 
6. Destructive right iliac bone lesion with soft tissue 
component, highly worrisome for metastatic disease. 7. Mild 
compression of the superior endplate of the L1 vertebral body, 
new since ___, but of otherwise indeterminate age.

___ Bone scan:
1. Heterogeneous tracer uptake in the area of the lytic, 
destructive lesion in the right iliac bone seen on the recent CT 
is concerning for a metastasis. 
2. Two foci of mildly increased tracer uptake in the left ___ 
and ___ anterolateral ribs correspond with sclerotic foci and 
mild rib contour abnormalities on recent CT, more consistent 
with post-traumatic changes.  
3. Linear focus of increased tracer uptake at the superior 
endplate of L1 corresponds with the compression fracture seen on 
CT.
 
Brief Hospital Course:
In summary this ___ man with history of HCV cirrhosis 
c/b esophageal varices and ascites and multifocal HCC s/p 
cyberknife and TACE presented with fevers and chills after a 
recent 2 week hospitalization for variceal bleed c/b hypotension 
and renal failure in ___. He was found on admission to have 
a urinary tract infection, bacteremia, and spontaneous bacterial 
peritonitis.

# Fever - bacteremia and urinary tract infection: He was found 
to have a Klebsiella pneumoniae urinary tract infection. The 
Klebsiella was sensitive to amikacin and meropenem and resistent 
to all other abx (see resistance patterns above) - an ESBL 
bacteria. On the second hospital day, blood cultures (___) were 
also growing the same Klebsiella species. The patient was 
treated initially with Zosyn; he defervesced and clinically 
improved with this treatment, despite the fact that culture 
sensitivities later showed resistence to Zosyn. When the 
sensitivities returned, the patient was switched to meropenem. 
Blood cultures have now cleared on three consecutive days of 
surveillance cultures, and a PICC line has been placed in the 
left arm. Placement of the PICC was confirmed radiographically, 
and it is ready for use.

The antibiotic course will be completed on ___. This will 
complete a 14-day course of meropenem treatment for bacteremia. 
Following this, the patient should be transitioned to 
ciprofloxacin for spontaneous bacterial peritonitis prophylaxis 
(see below).

# Culture negative neutrophilic ascites: A diagnostic 
paracentesis performed at the time of admission was consistent 
with spontaneous bacterial peritonitis (ie. absolute neutrophil 
count >250/mL). The LDH was slightly elevated (52), and the 
total protein was low (0.9), all consistent with spontaneous 
bacterial peritonitis. However, peritoneal fluid cultures 
remained negative during the entirety of this admission. A 
repeated paracentesis performed on the third hospital day showed 
much decreased neutrophils (<10/mL), which suggests that there 
was some response to antibiotic therapy; it is possible that the 
SBP was partially treated at time of admission as patient was 
taking ciprofloxacin prior to admission, a medicine that he had 
received since his hospitalization in ___ two weeks ago for 
variceal bleed. For this reason, we are recommending that the 
patient continue prophylaxis for SBP after he finishes his 
course of meropenem. Notably, the second paracentesis was large 
volume (2L), and the patient was treated afterwards with 25 gm 
of intravenous albumin. Fluid from this second paracentesis was 
sent for cytology, given our concern of metastatic 
hepatocellular cancer, and this will need to be followed up 
after discharge (see below).

# Hepatocellular carcinoma: He is s/p cyberknife and TACE 
treatments. Recently his case was discussed at tumor board with 
plans for close observation given his increasing AFP but no 
clear liver lesions to target for treatment. CT scan from this 
admission revealed a new lesion in the right iliac bone; this 
was followed up with a bone scan, also suggestive of malignant 
disease in the right ilium (see full reports above). The images 
were reviewed with radiology. The patient was never complaining 
of pain in the hips or back, even with ambulation, and the 
decision was made to follow the lesion conservatively with 
repeat imaging in one to two months. The patient will see his 
outpatient oncologist in one to two weeks. An AFP is pending at 
time of discharge. *The lytic right iliac lesion was discussed 
with patient, and he agrees with the plan for now for active 
surveillance.

# Bilateral pleural effusions: Likely a contributing cause of 
his cough and SOB. He was given a large volume of crystalloid 
and colloid per his report when he was hospitalized in ___. 
He has an element of diastolic dysfunction with an EF of >55% in 
___. Once he clinically stabilized, his home diuretics were 
resumed. His furosemide dose was increased from 40 mg twice 
daily to 60 mg twice daily. Spironolactone dose remains the 
same. The patient should take two more days of potassium 
supplement due to the increased dose of Lasix. This course will 
complete on ___.
  
# Acute kidney injury: This was most likely a result of his SBP. 
His creatinine continued to improve with antibiotics and 
albumin. In addition, his CT showed evidence of right 
hydronephrosis without evidence of mass or stone. The images 
were reviewed with radiology. This finding may be a result of 
peristalsis with CT scan catching a transient hydronephrosis, or 
a result of an acute angle of the ureter. It is possible that 
inflammatory changes from SBP resulted in further strain and 
angling of the ureter, thus causing a transient hydronephrosis. 
His spironolactone and lasix were held until creatinine 
improved, and then they were resumed. His renal function was at 
baseline at time of discharge.
  
# HCV cirrhosis: He has known esophageal varices and ascites and 
recently underwent emergent variceal banding in ___ (___). 
He was continued on nadolol, with a plan for repeat EGD in three 
weeks. His diuretics are as above. He can continue to take 
lactulose as needed for constipation, although there is no 
documented history of encephalopathy.

# Diabetes mellitus, non-insulin dependent: He was continued on 
___ and ISS while inpatient. His home glipizide and metformin 
can be resumed after discharge.

# Code Status: During this admission, the patient was confirmed 
full code.   
 
Medications on Admission:
CIPROFLOXACIN 500 mg BID  
FUROSEMIDE 40 mg BID  
GLIPIZIDE 10 mg BID  
LORAZEPAM 0.5 mg daily  
METFORMIN 500 mg BID  
NADOLOL 20 mg daily  
PROCHLORPERAZINE MALEATE 10 mg q8 PRN  
SPIRONOLACTONE 50 mg BID  
URSODIOL 250 mg TID  
RANITIDINE HCL 150 mg BID  
VITAMIN E 400 unit daily  
 
Discharge Medications:
1. glipizide 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. furosemide 20 mg Tablet Sig: Three (3) Tablet PO BID (2 times 
a day).  
3. nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for Anxiety.  
5. spironolactone 25 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
6. metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  
7. ursodiol 250 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
8. vitamin E 400 unit Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
9. ranitidine HCl 150 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
10. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
every eight (8) hours as needed for nausea.  
11. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day) as needed for constipation.  
12. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain, fever.  
13. meropenem 500 mg Recon Soln Sig: One (1) Recon Soln 
Intravenous Q6H (every 6 hours) for 9 days: Last dose on ___.  
14. potassium chloride 20 mEq Packet Sig: One (1)  PO once a day 
for 2 days: Please continue for three consecutive days and then 
stop on ___.  
15. ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO once a 
day: Please do not begin treatment with ciprofloxacin until ___, after the patient has finished his course of ertapenam.  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Urinary Tract Infection, Bacteremia, 
Spontaneous Bacterial Pneumonitis
Secondary Diagnosis: Hepatitis C Cirrhosis, Hepatocellular 
Carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your stay here at 
___.

You were admitted for fevers and chills. You were found to have 
a urinary tract infection, a blood infection, and an infection 
of the fluid within your abdomen. You were started on 
antibiotics. 

The following changes were made to your medication regimen:
START meropenem: you will complete a 14-day course on ___.
INCREASE furosemide: dose increased from 40 mg to 60 mg twice 
daily.
START ciprofloxacin: should start after the treatment course 
with ertapenem is finished, on ___.
START lactulose: for constipation.
START potassium supplement: to take for two more days after 
discharge.

Please note your follow-up appointments below.
 
Followup Instructions:
___